US05273986
A solution of 1.28 g of (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine, 0.81 g of homophthalic anhydride, 50 ml of toluene and 25 ml of tetrahydrofuran was heated to reflux for 0.5 hr. The solvents were removed by rotary evaporation and the residual materials were triturated with ethyl ether to yield 1.15 g of (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid. Recrystallization from acetonitrile yielded 0.81 g of material; m.p. 204°-206° C. Anal. Calcd for C24H22N2O3S: C, 68.88; H, 5.30; N, 6.69. Found: C, 68.15; H, 5.21; N, 6.54.

reactant | (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine | 1.28 g | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)N | C15H16N2S
reactant | homophthalic anhydride | 0.81 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | (E)-2-[2-[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenylamino]-2-oxoethyl]benzoic acid | 1.15 g | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)NC(CC1=C(C(=O)O)C=CC=C1)=O | C24H22N2O3S
